US07098337B2
(4R,9aR)-6-Cyclohexylmethoxymethyl-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester
This compound was prepared in analogy to Example 15 intermediate c), from (4R,9aR)-6-hydroxymethyl-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester, sodium hydride and (bromomethyl)cyclohexane.

reactant | (4R,9aR)-6-hydroxymethyl-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC=C(N=C3N2[C@@H](C1)C)CO | C17H25N3O3
reactant | sodium hydride | [H-].[Na+]
reactant | (bromomethyl)cyclohexane | BrCC1CCCCC1 | C7H13Br
product | (4R,9aR)-6-Cyclohexylmethoxymethyl-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC=C(N=C3N2[C@@H](C1)C)COCC1CCCCC1 | C24H37N3O3
